4
R0100 1 0 1
R0203 2 3 1
L0402 4 2 1e-3
L0104 1 4 1e-3
C0200 2 0 1e-3
C0400 4 0 1e-3
C0100 1 0 1e-3
V0300 3 0 PULSE 0 1 0 1 1 49 100 5
.TRAN 150 10000E-5 ADMO3 1
